US04146630
A mixture of 40.0 g. 1-(2-amino-3-nitrophenoxy)-2,3-epoxypropane, 36.2 g. 4-phenoxymethylpiperidine and 450 ml. ethanol is stirred for 18 hours at ambient temperature and the solution thereby obtained of 2-amino-1-[2-hydroxy-3-(4-phenoxymethylpiperidino)-propoxy]-3-nitrobenzene (m.p. 117°-118° C.) is subsequently hydrogenated at ambient temperature in the presence of 1.0 g. platinum oxide. After filtration, the filtrate obtained is acidified with dilute hydrochloric acid, evaporated and the evaporation residue redissolved in ethanol/ethyl acetate. There are obtained 72.3 g. 2,3-diamino-1-[2-hydroxy-3-(4-phenoxymethylpiperidino)-propoxy]-benzene trihydrochloride (81% of theory) in the form of an amorphous substance.

reactant | 1-(2-amino-3-nitrophenoxy)-2,3-epoxypropane | NC1=C(OCC2CO2)C=CC=C1[N+](=O)[O-] | C9H10N2O4
reactant | 4-phenoxymethylpiperidine | O(C1=CC=CC=C1)CC1CCNCC1 | C12H17NO
solvent | ethanol | C(C)O | C2H6O
product | 2-amino-1-[2-hydroxy-3-(4-phenoxymethylpiperidino)-propoxy]-3-nitrobenzene | NC1=C(C=CC=C1[N+](=O)[O-])OCC(CN1CCC(CC1)COC1=CC=CC=C1)O | C21H27N3O5
